US04036975
To a solution of 500 mg. of 1-[2-(1-adamantyl)-2-hydroxyethyl]imidazole in 3 ml. of hexamethylphosphoramide is added 96 mg. of a 56% dispersion of sodium hydride in mineral oil. The addition of base is carried out under a nitrogen atmosphere with continuous stirring. The reaction temperature is then maintained at 25° C. for 1 hour and thereafter at 50° C. After 11/2 hours at 50° C., the reaction mixture is cooled in ice and 450 mg. α,2,4-trichlorotoluene in 3 ml. hexamethylphosphoramide is added dropwise. The temperature is then held at 5° C. for a 1 hour, then raised to 25° C. for 1 hour, and finally held at 50° C. for 2 hours. Thereafter, the resulting solution is poured into 200 ml. water. The aqueous phase is extracted with ether and the extracts washed with water, dried over magnesium sulfate and evaporated to dryness. The resulting residue is chromatographed on silica gel to effect purification. Elution with 5% acetone in dichloromethane yields 1-[2-(1-adamantyl)-2-(2,4-dichlorobenzyloxy)ethyl]imidazole which is then further characterized as the oxalate salt, decomp. 203.5°-205.5° C.

reactant | 1-[2-(1-adamantyl)-2-hydroxyethyl]imidazole | C12(CC3CC(CC(C1)C3)C2)C(CN2C=NC=C2)O | C15H22N2O
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | sodium hydride | [H-].[Na+]
reactant | α,2,4-trichlorotoluene | ClCC1=C(C=C(C=C1)Cl)Cl | C7H5Cl3
solvent | water | O | H2O
product | 1-[2-(1-adamantyl)-2-(2,4-dichlorobenzyloxy)ethyl]imidazole | C12(CC3CC(CC(C1)C3)C2)C(CN2C=NC=C2)OCC2=C(C=C(C=C2)Cl)Cl | C22H26Cl2N2O
